US05824443
4.5 g (27 mmol) of diphenylamine, 11.0 g (51 mmol) of p-iodotoluene, 5.5 g (40 mmol) of anhydrous potassium carbonate, and 1.1 g of copper chips were added to 30 mL of o-dichlorobenzene. The mixture was subjected to heating and refluxing for 7 hours under stirring conditions. Upon completion of the reaction, the reaction solution was filtered, the filtrate was washed with a 3-5% aqueous solution of sodium thiosulfate, and then with saturated brine. After drying the organic layer with anhydrous sodium sulfate, the solvent was removed. The reaction mixture obtained was recrystallized with ethanol, and 4-methyltriphenylamine was obtained in an amount of 5.7 g (yield 81.4 %).

reactant | diphenylamine | 27 mmol, 4.5 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | p-iodotoluene | 51 mmol, 11.0 g | IC1=CC=C(C=C1)C | C7H7I
reactant | potassium carbonate | 40 mmol, 5.5 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 1.1 g | [Cu] | Cu
solvent | o-dichlorobenzene | 30 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4-methyltriphenylamine | yield 81.4 % | CC1=CC=C(C=C1)N(C2=CC=CC=C2)C3=CC=CC=C3 | C19H17N
